US07772226B2
(a) 5-Methyl-2-(pyridin-4-yl)-1,5-dihydroimidazo[4,5-d]pyridazin-4-one
0.560 g of 4,5-diamino-2-methyl-2H-pyridazin-3-one and 0.535 g of 4-pyridinecarbaldehyde were added to 10 ml of nitrobenzene, and the mixture was heated at 190° C. under a nitrogen atmosphere for three hours. The reaction solution was cooled down, and the precipitate was collected by filtration to give 0.381 g of the title compound.

reactant | 4,5-diamino-2-methyl-2H-pyridazin-3-one | 0.560 g | NC=1C(N(N=CC1N)C)=O | C5H8N4O
reactant | 4-pyridinecarbaldehyde | 0.535 g | N1=CC=C(C=C1)C=O | C6H5NO
solvent | nitrobenzene | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 5-Methyl-2-(pyridin-4-yl)-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 0.381 g | CN1N=CC2=C(C1=O)N=C(N2)C2=CC=NC=C2 | C11H9N5O
